US07514583B2
Bis(3,4-dimethoxybenzyl)amine
To a solution of 3,4-dimethoxybenzaldelyde (1 g, 6 mmol) in anhydrous methanol (10 ml) was added 3,4-dimethoxybenzylamine (1 g, 5.9 mmol) and the solution stirred under nitrogen at room temperature for 3 hours. The methanol was removed under reduced pressure to afford the crude imine, 1.9 g. The imine was dissolved in THF (10 ml) and acetic acid (4 ml), and sodium cyanoborohydride (0.38 g, 6 mmol) was added portionwise over 30 minutes. The solution was stirred for an additional 30 minutes at room temperature, and the solvents were removed under reduced pressure. The residue was neutralized with saturated aqueous sodium hydrogen carbonate, and the solid crude product was isolated by filtration, and dried under vacuum at 50° C. overnight, yield 0.6 g.

reactant | 3,4-dimethoxybenzylamine | 5.9 mmol, 1 g | COC=1C=C(CN)C=CC1OC | C9H13NO2
reactant | sodium cyanoborohydride | 6 mmol, 0.38 g | C(#N)[BH3-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
product | Bis(3,4-dimethoxybenzyl)amine | COC=1C=C(CNCC2=CC(=C(C=C2)OC)OC)C=CC1OC | C18H23NO4
